US06307047B1
2-(3,4-Difluorophenyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of procedure Example 384, substituting 2-(3,4-difluorophenyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 105 mg, 27%). mp 243-245° C. 1H NMR (300 MHz, DMSO-d6) δ 2.2 (s, 3H), 7.01 (m, 2H), 7.25 (m, 1H), 7.45 (s, 1H), 7.47 (bs, 2H), 7.6 (m, 2H), 7.77 (d, J=9 Hz, 2H), 7.85 (m, 1H), 8.26 (s, 2H). MS (DCI/NH3) m/z 472 (M+H)+, 489 (M+NH4)+. Anal. calc. for C24H17F3N2O3S.0.5 H2O: C, 58.59; H, 3.42; N, 8.91. Found: C, 57; H, 4.23; N, 8.89.

reactant | 2-(3,4-difluorophenyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC(=C(C=C1)F)C)C1=CC=C(C=C1)S(=O)(=O)C | C24H17F3N2O3S
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(3,4-Difluorophenyl)-4-(4-fluoro-3-methylphenyl)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC(=C(C=C1)F)C)C1=CC=C(C=C1)S(=O)(=O)N | C23H16F3N3O3S
